* Auto-generated SPICE netlist (NO TEXT OCR USED)

V1 n4 n7 DC 15 AC 1
Q1 n9 n8 n1 QNPNdefault
E1 n6 0 n8 n2 100k
D1 0 n7 Ddefault
Q2 n2 n3 n10 QPNPdefault
D2 n3 0 Zdefault
D3 n8 n9 Zdefault
D4 n4 n1 Ddefault
D5 0 n4 Ddefault
C1 n10 0 1u
L1 n5 0 1m
C2 n1 n5 1u
R1 n1 n3 1k
R2 n9 0 1k
L2 n9 n6 1m
D6 n1 n7 Ddefault
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP
.model Zdefault D(bv=5.1)

.op
.end
